US07148176B2
Di(1-adamantyl)-n-hexylphosphine (HexP(1-Ad)2) (Variant 2)
5.5 g (18 mmol) of di(1-adamantyl)phosphine were placed in 60 ml of di-n-butyl ether, and 20 ml of a 2.5 M solution of n-BuLi (50 mmol) in toluene were added. The mixture was refluxed for 45 min and cooled and 3.0 g (18 mmol) of 1-bromohexane were added dropwise. The mixture was refluxed for 30 min, cooled and washed with saturated ammonium chloride solution (3×), the organic phase was separated off and dried over sodium sulfate and the solvent was distilled off under reduced pressure.

reactant | di(1-adamantyl)phosphine | 18 mmol, 5.5 g | C12(CC3CC(CC(C1)C3)C2)PC23CC1CC(CC(C2)C1)C3 | C20H31P
reactant | n-BuLi | 50 mmol | [Li]CCCC
reactant | 1-bromohexane | 18 mmol, 3.0 g | BrCCCCCC | C6H13Br
solvent | di-n-butyl ether | 60 ml | C(CCC)OCCCC | C8H18O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Di(1-adamantyl)-n-hexylphosphine | C12(CC3CC(CC(C1)C3)C2)P(CCCCCC)C23CC1CC(CC(C2)C1)C3 | C26H43P
